US07902193B2
(e) 3-(4-Nitro-pyridin-2-ylmethylene)-3H-isobenzofuran-1-one (19)
To a cooled solution of (4-oxo-3,4-dihydro-phthalazin-1-yl)-phosphonic acid dimethyl ester (0.202 g, 0.837 mmol) in THF (4 mL) at 10° C. was added 4-nitro-pyridine-2-carbaldehyde (0.837 mmol) under a nitrogen atmosphere. Triethylamine (0.174 mL, 1.25 mmol) was added dropwise over 10 minutes and then allowed to stir at room temperature for 18 hours. The yellow suspension was poured in water (9 mL), and the then filtered, the solid was washed with water (2×2 mL), hexane (2×2 mL) and then diethyl ether (2×2 mL) and then dried in vacuo to afford a 0.73 g of the desired products. Two peaks in LC-MS analysis, (0.13 g, 18% two steps) and required no further purification, m/z (LC-MS, ESP), RT=4.26 mins (M+H) 269, & RT=4.52 mins (M+H) 269.

reactant | (4-oxo-3,4-dihydro-phthalazin-1-yl)-phosphonic acid dimethyl ester | 0.837 mmol, 0.202 g | COP(OC)(=O)C1=NNC(C2=CC=CC=C12)=O | C10H11N2O4P
reactant | 4-nitro-pyridine-2-carbaldehyde | 0.837 mmol | [N+](=O)([O-])C1=CC(=NC=C1)C=O | C6H4N2O3
reactant | Triethylamine | 1.25 mmol, 0.174 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 9 mL | O | H2O
product | 3-(4-Nitro-pyridin-2-ylmethylene)-3H-isobenzofuran-1-one | 0.73 g | [N+](=O)([O-])C1=CC(=NC=C1)C=C1OC(C2=CC=CC=C12)=O | C14H8N2O4
